US06316482B1
To a suspension of 4-(2,3-diaminobenzoyl)amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (200 mg) in water (5 ml) was added 1N hydrochloric acid (1.3 ml) and then dicyandiamide (545 mg) was added to the stirred reaction mixture. The solution was heated under reflux for 24 hours. After cooling, aqueous sodium hydrogen carbonate was added to the mixture and extracted with ethyl acetate. The extract was washed with brine and dried over sodium sulfate. After evaporation of the solvent, the residue was purified by silica gel column chromatography (SiO2, 30 g, 15% methanol in chloroform) to give 4-[2-guanidinobenzimidazol-4-yl]carbonylamino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (100 mg) as yellow amorphous.

reactant | 4-(2,3-diaminobenzoyl)amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 200 mg | NC1=C(C(=O)NC2=C(C=C(C(=O)N(C3=C(C=C(C=C3)C)OCCCCCC(=O)N3CCN(CC3)C)C)C=C2)OC)C=CC=C1N | C34H44N6O5
reactant | hydrochloric acid | 1N, 1.3 ml | Cl | ClH
reactant | dicyandiamide | 545 mg | C(#N)N=C(N)N | C2H4N4
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | 5 ml | O | H2O
product | 4-[2-guanidinobenzimidazol-4-yl]carbonylamino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 100 mg | N(C(=N)N)C=1NC2=C(N1)C=CC=C2C(=O)NC2=C(C=C(C(=O)N(C1=C(C=C(C=C1)C)OCCCCCC(=O)N1CCN(CC1)C)C)C=C2)OC | C36H45N9O5
